datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)(C)CCCCc1ccc([O:21][H:20])cc1.Nc1ccc(S(=O)(=O)[N-:10]c2ccn(-c3ccc([N+](=O)[O-])cc3)n2)cc1>>CC(C)(C)CCCCc1ccc([O-:21])cc1.Nc1ccc(S(=O)(=O)[N:10](c2ccn(-c3ccc([N+](=O)[O-])cc3)n2)[H:20])cc1 10=20;20,21=21",
"O=C([O-])C(Cc1nc(I)[n-]c1I)[NH2+:21][H:20].c1ccc2c(c1)ccc1ccc([O-:10])cc12>>O=C([O-])C(Cc1nc(I)[n-]c1I)[NH2:21].c1ccc2c(c1)ccc1ccc([O:10][H:20])cc12 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(C(F)(F)F)C=C2)[H:20])=C1.OCC[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(C(F)(F)F)C=C2)=C1.OCC[O:10][H:20] 10=20;20,21=21",
"C=CC(CC(C)(C)C)c1ccc2cccnc2c1[O-:10].CC(C)(C)c1cc[n+:21]([H:20])c(C(C)(C)C)c1>>C=CC(CC(C)(C)C)c1ccc2cccnc2c1[O:10][H:20].CC(C)(C)c1cc[n:21]c(C(C)(C)C)c1 10=20;20,21=21",
"CCOC(=O)c1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCOC(=O)c1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(C)[N:10]1NC2CCC1CC2.O=[N+]([O-])c1cccc2c1c(NCCCO)cc[n+:21]2[H:20]>>CC(C)(C)[N+:10]1([H:20])NC2CCC1CC2.O=[N+]([O-])c1cccc2c1c(NCCCO)cc[n:21]2 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+]CCCNCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+]CCCNCCC[NH2+:10][H:20] 10=20;20,21=21",
"CCC(CCCl)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCC(CCCl)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCCCCCCCCCCCCCCCCCCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCCCCCCCCCCCCCCCCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(O)(C(=O)[O:21][H:20])c1ccccc1.O=S(=O)(Nc1nncs1)c1ccc([NH2:10])cc1>>CC(O)(C(=O)[O-:21])c1ccccc1.O=S(=O)(Nc1nncs1)c1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"COCC[SH+]C(C)[O-:10].O=C(CC[C@H]1CC[C@H](O)CC1)[O:21][H:20]>>COCC[SH+]C(C)[O:10][H:20].O=C(CC[C@H]1CC[C@H](O)CC1)[O-:21] 10=20;20,21=21",
"CC1CCCC(C(C)C(=O)[O:21][H:20])C1.COc1ccc(S(=O)(=O)[N-:10]c2ccccc2)cc1>>CC1CCCC(C(C)C(=O)[O-:21])C1.COc1ccc(S(=O)(=O)[N:10](c2ccccc2)[H:20])cc1 10=20;20,21=21",
"O=C([O-])C(CO)[NH2+]Cc1cc([N+](=O)[O-])ccc1[O-:10].O=[N+]([O-])c1cccc(S(=O)(=O)[O:21][H:20])c1>>O=C([O-])C(CO)[NH2+]Cc1cc([N+](=O)[O-])ccc1[O:10][H:20].O=[N+]([O-])c1cccc(S(=O)(=O)[O-:21])c1 10=20;20,21=21",
"CC(C)(C)[NH+:21](CC(O)COc1nsnc1N1CCOCC1)[H:20].CCCCC[NH:10]CCCCC>>CC(C)(C)[NH:21]CC(O)COc1nsnc1N1CCOCC1.CCCCC[NH+:10](CCCCC)[H:20] 10=20;20,21=21",
"CC1(C)NC(=S)[N-:10]C1=O.c1ccc([I+]c2ccc([NH2+:21][H:20])cc2)cc1>>CC1(C)NC(=S)[N:10]([H:20])C1=O.c1ccc([I+]c2ccc([NH2:21])cc2)cc1 10=20;20,21=21",
"Clc1ccc([O-:10])cc1.OCC(S)C[S:21][H:20]>>Clc1ccc([O:10][H:20])cc1.OCC(S)C[S-:21] 10=20;20,21=21",
"C[NH+](C)CCCCCCNC(=O)/C=N/[O-:10].O=[PH]([O-])C([NH2+]Cc1cccc[n+:21]1[H:20])c1ccccc1O>>C[NH+](C)CCCCCCNC(=O)/C=N/[O:10][H:20].O=[PH]([O-])C([NH2+]Cc1cccc[n:21]1)c1ccccc1O 10=20;20,21=21",
"Cc1cc(C)[n-:10]n1.c1nc2c(c[n+:21]1[H:20])NCCN2>>Cc1cc(C)[n:10]([H:20])n1.c1nc2c(c[n:21]1)NCCN2 10=20;20,21=21",
"CC(C)COc1ccc(C(=O)[O:21][H:20])cc1.CN1C=C/C(=[N:10]/N)c2ccccc21>>CC(C)COc1ccc(C(=O)[O-:21])cc1.CN1C=C/C(=[N+:10](/N)[H:20])c2ccccc21 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccc(C)cc2)CCC1(C)C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC1=C(CC(C)[NH+:10](CC(O)c2ccc(C)cc2)[H:20])CCC1(C)C.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(c1)Nc1cccc([O-:10])c1N2>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(c1)Nc1cccc([O:10][H:20])c1N2 10=20;20,21=21",
"C[NH+](C)CCNCC[NH2:10].Cc1cc(C)[n+:21]([H:20])[nH]1>>C[NH+](C)CCNCC[NH2+:10][H:20].Cc1cc(C)[n:21][nH]1 10=20;20,21=21",
"[H:20][NH2+:21]CC#N.C1=CC=C(C=C1)C(=O)[CH-:10][P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][CH:10](C(=O)C1=CC=CC=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.C(C#N)[NH2:21] 10=20;20,21=21",
"Cc1c[n+:21]([H:20])c2c(O)cccc2c1C.O=C(/C=C/CCl)[O-:10]>>Cc1c[n:21]c2c(O)cccc2c1C.O=C(/C=C/CCl)[O:10][H:20] 10=20;20,21=21",
"CC[N:10](CC)CCCCCCNc1c2ccc(Cl)cc2nc2ccc(OC)cc12.O=C([O-])[C@H]1CCC[C@@H](C(=O)[O-])[NH+:21]1[H:20]>>CC[N+:10](CC)(CCCCCCNc1c2ccc(Cl)cc2nc2ccc(OC)cc12)[H:20].O=C([O-])[C@H]1CCC[C@@H](C(=O)[O-])[NH:21]1 10=20;20,21=21",
"Brc1cccc([NH2+:21][H:20])c1.C#C[C@]1(O)C[C@H](C)[N:10](C)[C@@H]2CCCC[C@H]21>>Brc1cccc([NH2:21])c1.C#C[C@]1(O)C[C@H](C)[N+:10](C)([H:20])[C@@H]2CCCC[C@H]21 10=20;20,21=21",
"CCN(CC)C(=S)[N:21](C(=O)c1ccc(C)cc1)[H:20].Cc1cc(C)c(C)c([NH2:10])c1C>>CCN(CC)C(=S)[N-:21]C(=O)c1ccc(C)cc1.Cc1cc(C)c(C)c([NH2+:10][H:20])c1C 10=20;20,21=21",
"CC[N:10](CC)Cc1cc(Cl)ccc1[O-].c1ccc2c([O:21][H:20])cccc2c1>>CC[N+:10](CC)(Cc1cc(Cl)ccc1[O-])[H:20].c1ccc2c([O-:21])cccc2c1 10=20;20,21=21",
"[H:20][O:21]C(=O)C.[CH-:10]1C2=C(C=CC=C2)SC1=O>>[H:20][CH:10]1C2=C(C=CC=C2)SC1=O.CC(=O)[O-:21] 10=20;20,21=21",
"C[N:10](C)c1ccc2ccccc2c1.O=[N+]([O-])c1cccc(S(=O)(=O)[NH:21][H:20])c1>>C[N+:10](C)(c1ccc2ccccc2c1)[H:20].O=[N+]([O-])c1cccc(S(=O)(=O)[NH-:21])c1 10=20;20,21=21",
